data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
3226,3642,[CH3:10][N-:11][N+:12]#[C:13][C:14]([CH3:15])=[O:16].[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]1([CH3:3])[CH:4](/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9])[C:13]([C:14]([CH3:15])=[O:16])=[N:12][N:11]1[CH3:10],water,298.15,17.79150479742218,-37.30849743414001
3145,3547,[CH2:1]=[CH2:2].[CH3:3][O:4][C:5](=[O:6])[C:7]([CH3:8])=[O+:9][C-:10]([CH3:11])[C:12](=[O:13])[O:14][CH3:15]>>[CH2:1]1[CH2:2][C:10]([CH3:11])([C:12](=[O:13])[O:14][CH3:15])[O:9][C:7]1([C:5]([O:4][CH3:3])=[O:6])[CH3:8],water,298.15,8.494356888995007,-63.96625559823218
3882,4442,[CH3:10][NH:11][C:12](=[O:13])[c-:14]1[nH+:15][c:16]([CH3:17])[o:18][c:19]1=[O:20].[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]1([CH3:8])[CH2:9][C:14]2([C:12]([NH:11][CH3:10])=[O:13])[NH:15][C:16]1([CH3:17])[O:18][C:19]2=[O:20],water,298.15,33.287725275058826,3.665754491798904
3070,3451,[CH3:1][C:2]([CH3:3])=[C:4]([CH3:5])[CH3:6].[CH3:7][CH:8]=[O+:9][C-:10]([CH3:11])[C:12]([CH3:13])=[O:14]>>[CH3:1][C:2]1([CH3:3])[C:4]([CH3:5])([CH3:6])[C:10]([CH3:11])([C:12]([CH3:13])=[O:14])[O:9][CH:8]1[CH3:7],water,298.15,15.367882406786167,-34.11377119945759
1226,1335,[CH3:14][O:15][C:16](=[O:17])[C:18](=[O+:19][N-:20][C:21]#[N:22])[C:23]([CH3:24])=[O:25].[CH3:1][NH:2][C:3](=[O:4])[C:5]1=[C:6]([O:7][CH3:8])[CH:9]2[CH2:10][CH2:11][CH:12]1[CH2:13]2>>[CH3:1][NH:2][C:3](=[O:4])[C:5]12[C:6]([O:7][CH3:8])([CH:9]3[CH2:10][CH2:11][CH:12]1[CH2:13]3)[N:20]([C:21]#[N:22])[O:19][C:18]2([C:16]([O:15][CH3:14])=[O:17])[C:23]([CH3:24])=[O:25],water,298.15,6.3908864872753055,-36.14500736869135
1866,2069,[CH3:13][C:14](=[O:15])[c:16]1[o:17][c:18](=[O:19])[c-:20]([C:21]([CH3:22])=[O:23])[o+:24]1.[CH3:1][C:2]1([CH3:3])[C:4]#[C:5][C:6]([Cl:7])([Br:8])[CH2:9][CH2:10][CH2:11][CH2:12]1>>[CH3:1][C:2]1([CH3:3])[C:4]2=[C:5]([C:6]([Cl:7])([Br:8])[CH2:9][CH2:10][CH2:11][CH2:12]1)[C:16]1([C:14]([CH3:13])=[O:15])[O:17][C:18](=[O:19])[C:20]2([C:21]([CH3:22])=[O:23])[O:24]1,water,298.15,16.130817288052036,-18.58632604656005
365,396,[CH3:12][CH-:13][N+:14]([CH3:15])=[C:16]([C:17]#[N:18])[C:19]#[N:20].[F:1][C:2]([F:3])([F:4])[C:5]1=[CH:6][CH:7]2[CH2:8][CH2:9][CH:10]1[CH2:11]2>>[F:1][C:2]([F:3])([F:4])[C:5]12[CH:6]([CH:7]3[CH2:8][CH2:9][CH:10]1[CH2:11]3)[C:16]([C:17]#[N:18])([C:19]#[N:20])[N:14]([CH3:15])[CH:13]2[CH3:12],water,298.15,22.921696222584178,-16.560942745609093
87,98,[CH3:10][C:11](=[O:12])[C:13]#[N+:14][N-:15][C:16]#[N:17].[CH3:1][O:2][C:3](=[O:4])[C:5]#[C:6][C:7]([CH3:8])=[O:9]>>[CH3:1][O:2][C:3](=[O:4])[c:5]1[c:6]([C:7]([CH3:8])=[O:9])[n:15]([C:16]#[N:17])[n:14][c:13]1[C:11]([CH3:10])=[O:12],water,298.15,17.28310532750271,-75.22472000474626
157,174,[CH2:12]=[N+:13]([CH3:14])[CH-:15][C:16]([CH3:17])=[O:18].[CH3:1][C:2](=[O:3])[C:4]#[C:5][c:6]1[cH:7][cH:8][cH:9][cH:10][cH:11]1>>[CH3:1][C:2](=[O:3])[C:4]1=[C:5]([c:6]2[cH:7][cH:8][cH:9][cH:10][cH:11]2)[CH:15]([C:16]([CH3:17])=[O:18])[N:13]([CH3:14])[CH2:12]1,water,298.15,15.451003049248872,-39.28507441344272
1923,2131,[CH3:15][O:16][C:17](=[O:18])[C:19]([C:20]#[N:21])=[NH+:22][C-:23]([C:24]([CH3:25])=[O:26])[C:27]([CH3:28])=[O:29].[CH3:1][NH:2][C:3](=[O:4])[C:5]([C:6](=[O:7])[NH:8][CH3:9])=[C:10]([O:11][CH3:12])[O:13][CH3:14]>>[CH3:1][NH:2][C:3](=[O:4])[C:5]1([C:6](=[O:7])[NH:8][CH3:9])[C:10]([O:11][CH3:12])([O:13][CH3:14])[C:19]([C:17]([O:16][CH3:15])=[O:18])([C:20]#[N:21])[NH:22][C:23]1([C:24]([CH3:25])=[O:26])[C:27]([CH3:28])=[O:29],water,298.15,33.52521366052205,5.158382388657429
254,278,[CH3:14][C:15]#[N+:16][CH-:17][C:18]#[N:19].[CH3:1][NH:2][C:3](=[O:4])[C:5]1=[C:6]([O:7][CH3:8])[CH:9]2[CH2:10][CH2:11][CH:12]1[CH2:13]2>>[CH3:1][NH:2][C:3](=[O:4])[C:5]12[C:6]([O:7][CH3:8])([CH:9]3[CH2:10][CH2:11][CH:12]1[CH2:13]3)[C:15]([CH3:14])=[N:16][CH:17]2[C:18]#[N:19],water,298.15,28.71383847098465,-37.29535148189632
4203,4808,[CH3:10][C:11](=[O:12])[C-:13]([N+:14]#[C:15][C:16]#[N:17])[c:18]1[cH:19][cH:20][cH:21][cH:22][cH:23]1.[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]([CH3:3])=[CH:4][C@H:5]1[C@H:6]([C:7]([CH3:8])=[CH2:9])[C:15]([C:16]#[N:17])=[N:14][C:13]1([C:11]([CH3:10])=[O:12])[c:18]1[cH:19][cH:20][cH:21][cH:22][cH:23]1,water,298.15,13.30065312827616,-31.91344880209557
2947,3288,[CH2:1]=[CH2:2].[N:3]#[C:4][C:5]#[N+:6][CH-:7][c:8]1[cH:9][cH:10][cH:11][cH:12][cH:13]1>>[CH2:1]1[CH2:2][CH:7]([c:8]2[cH:9][cH:10][cH:11][cH:12][cH:13]2)[N:6]=[C:5]1[C:4]#[N:3],water,298.15,14.077148551683676,-50.21467096928873
5067,5755,[C:1]1(=[O:2])[C:3]([O:4][CH3:5])=[C:6]([O:7][CH3:8])[C:9](=[O:10])[C:11]([CH3:12])=[C:13]1[CH3:14].[CH3:15][CH:16]=[N+:17]([CH3:18])[C-:19]([C:20]([CH3:21])=[O:22])[c:23]1[cH:24][cH:25][cH:26][cH:27][cH:28]1>>[C:1]1(=[O:2])[C:3]([O:4][CH3:5])=[C:6]([O:7][CH3:8])[C:9](=[O:10])[C@@:11]2([CH3:12])[C@:13]1([CH3:14])[C:19]([C:20]([CH3:21])=[O:22])([c:23]1[cH:24][cH:25][cH:26][cH:27][cH:28]1)[N:17]([CH3:18])[CH:16]2[CH3:15],water,298.15,18.3102605645475,-4.472190816326097
